US08629160B2
Preparation of 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetic acid (I10)
A solution of ethyl 2-bromo-2-phenylacetic acid (600 mg, 2.79 mmol) and methyl 3-aminothiophene-2-carboxylate (438 mg, 2.79 mmol) in acetonitrile (20 ml) was heated under microwave irradiation at 100° C. for 1 hour. Acetonitrile was evaporated to dryness and the resulting residue was used in the next step without any further purification.

reactant | ethyl 2-bromo-2-phenylacetic acid | 2.79 mmol, 600 mg | C(C)C(C(=O)O)(C1=CC=CC=C1)Br | C10H11BrO2
reactant | methyl 3-aminothiophene-2-carboxylate | 2.79 mmol, 438 mg | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetic acid | COC(=O)C=1SC=CC1NC(C(=O)O)C1=CC=CC=C1 | C14H13NO4S
